US05053509
A mixture of (R)-2-phenyl-1,4-bis(p-toluenesulphonyl)piperazine (10 g) and phenol (9.4 g) in 48% strength hydrobromic acid (100 cc) is heated with very vigorous stirring to a temperature in the region of 120° C. for 5 hours. After cooling to approximately 80° C., the reaction mixture is treated with water (250 cc), cooled to about 20° C. and washed with dichloromethane (5×100 cc). The aqueous phase is concentrated under reduced pressure (20 kPa) at approximately 80° C. The residue is taken up with ethyl acetate (100 cc), cooled to 5° C. and treated at between 5° and 20° C. with 30% strength aqueous sodium hydroxide (100 cc). The organic phase is separated and the aqueous phase extracted again with ethyl acetate (3×100 cc). The combined organic extracts are washed with 5N aqueous sodium hydroxide (4×20 cc), dried over magnesium sulphate, filtered and concentrated to dryness under reduced pressure (20 kPa) at approximately 30° C. The residue obtained is taken up with isopropyl ether (15 cc) at approximately 0° C., drained and washed at the same temperature with the same solvent (10 cc). (R)-2-Phenylpiperazine (2.3 g) is obtained in the form of a colorless solid, m.p. 117° C.

reactant | (R)-2-phenyl-1,4-bis(p-toluenesulphonyl)piperazine | 10 g | C1(=CC=CC=C1)[C@H]1N(CCN(C1)S(=O)(=O)C1=CC=C(C=C1)C)S(=O)(=O)C1=CC=C(C=C1)C | C24H26N2O4S2
reactant | phenol | 9.4 g | C1(=CC=CC=C1)O | C6H6O
reactant | hydrobromic acid | 100 cc | Br | BrH
reactant | isopropyl ether | 15 cc | C(C)(C)OC(C)C | C6H14O
solvent | water | 250 cc | O | H2O
product | (R)-2-Phenylpiperazine | 2.3 g | C1(=CC=CC=C1)[C@H]1NCCNC1 | C10H14N2
